* Model from Jim Thompson,
* http://www.analog-innovations.com/SED/MyLMC555.zip
* Schematics Subcircuit *
* Pin 1, 2, 3, 4, 5, 6, 7, 8
.SUBCKT MyLMC555 VN TRIGGERbar OUTPUT RESETbar CONTROL THRESHOLD DISCHARGE VP 
R_R2   CONTROL N_1  100K 
R_R3   N_1 VN  100K 
R_R1   VP CONTROL  100K 
X_MN7  N_3 N_2 N_4 VN NHV PARAMS: W=20u M=5
X_MP6  N_3 N_2 N_5 VP PHV PARAMS: W=100u M=4
X_MP7  N_3 N_6 VP VP PHV PARAMS: W=100u M=2
X_MN1  OUTPUT N_7 VN VN NHV PARAMS: W=122u M=10
X_MN3  N_7 N_8 VN VN NHV PARAMS: W=30.5u M=10
X_MN4  N_8 N_3 VN VN NHV PARAMS: W=25.4u M=3
X_MN5  N_3 N_8 VN VN NHV PARAMS: W=5u M=1
X_MP1  OUTPUT N_7 VP VP PHV PARAMS: W=100u M=17
X_MP2  N_7 N_8 VP VP PHV PARAMS: W=25u M=17
X_MP4  N_3 N_8 VP VP PHV PARAMS: W=5u M=3
X_MP3  N_8 N_3 VP VP PHV PARAMS: W=26.6u M=4
X_MN2  DISCHARGE N_7 VN VN NHV PARAMS: W=101u M=30
X_MP5  N_5 N_9 VP VP PHV PARAMS: W=100u M=4
E_E1   VP N_9 VALUE {((TANH(220*V(THRESHOLD,CONTROL))+1)/2)*(V(VP)-V(VN))}
E_E2   N_2 VN VALUE {((TANH(220*V(N_1,TRIGGERbar))+1)/2)*(V(VP)-V(VN))}
R_R4   N_10 VN  1K 
V_V3   N_10 VN 0.9V
X_MN6  N_4 N_6 VN VN NHV PARAMS: W=20u M=5
E_E3   VP N_6 VALUE { ((TANH(22*V(N_10, RESETbar))+1)/2)*(V(VP)-V(VN)) }


*
.model     nt             nmos                   (level = 7 ;intcap=1
+;version = 3.1            
+tnom    = 20             ;templev    = 2                  
+mobmod  = 1              capmod=2              xpart   = 0                  
+;acm     = 2              hdif    = 8e-7           ldif    = 1e-6 
+rs      = 0              rd      = 9000           tox     = 1.35e-8            
+xj      = 1.5e-7         nch     = 1.5e17         k1      = 0.96              
+k2      = -0.15          vth0    = 0.65           u0      = 516.4              
+rsh     = 90             rdsw    = 0              lint    = 0.05e-6
+wint    = 0.12e-6        js = 32.0e-3
+cgdo    = 2.5e-10
+cgso    = 2.5e-10        cgbo    = 3e-10          cj      = 4e-4            
+cjsw    = 7e-10       
+ua      = 1.182e-13      ub      = 1.98e-18           
+uc      = 5.033e-11      k3      = 72.66          k3b     = -34.46             
+w0      = 4.532e-6       dwg     = -7.677e-9      dwb     = 2.646e-8           
+nlx     = 5.747e-8       dvt0    = 2.439          dvt1    = 0.4879             
+dvt2    = -0.2141        wr      = 1              voff    = -0.1276            
+nfactor = 0.6019         cdsc    = -0.01053       cdscd   = -6.499e-4          
+cdscb   = 2.659e-4       cit     = 0              vsat    = 9.664e4            
+a0      = 0.5932         ags     = 0.1981         a1      = 0                  
+a2      = 1              b0      = 6.448e-7       b1      = 1.154e-6           
+eta0    = 0.02354        etab    = -0.01088       dsub    = 0.2295             
+pvag    = 0.2255         pclm    = 1.307          pdiblc1 = -0.2023            
+pdiblc2 = 2.079e-3       pdiblcb = 0              drout   = 1                  
+pscbe1  = 1e9            pscbe2  = 2e-7           keta    = -0.06              
+delta   = 0.01          
+prt     = 0              ute     = -2.023         kt1     = -0.4279            
+kt1l    = 6.188e-8       kt2     = -0.09041       ua1     = 9.475e-12          
+ub1     = -3.811e-19     uc1     = -5.629e-12     at      = 0                  
+nj       = 2.5           xti     = 3              
+pb      = 0.6            mjsw    = 0.33           pbsw     = 0.7                
+mj      = 0.33           cle     = 0.6               
+ckappa  = 0.6            cf      = 0              clc     = 1e-7       )
*
*
.model     pt             pmos                   (level = 7 ;intcap=1
+;version = 3.1            
+tnom    = 20             ;templev    = 2                  
+mobmod  = 1              capmod=2              xpart   = 0                  
+;acm     = 2              hdif    = 8e-7           ldif    = 1e-6
+rs      = 5920           rd      = 3.77e4         tox     = 1.35e-8            
+xj      = 1.5e-7         nch     = 5e16           k1      = 0.50             
+k2      = 1.4e-4         vth0    = -0.90          u0      = 255.5              
+rsh     = 110            rdsw    = 2.042e4        lint    = 0.40e-6       
+wint    = 0.14e-6        js = 6.4e-3          
+cgdo    = 2.5e-10
+cgso    = 2.5e-10        cgbo    = 3e-10          cj      = 7.0e-4            
+cjsw    = 2.7e-10      
+ua      = 3.001e-9       ub      = 6.211e-19          
+uc      = -6.942e-11     k3      = 118            k3b     = -14.66             
+w0      = 5.165e-6       dwg     = -1.283e-8      dwb     = 1.559e-8           
+nlx     = -8.897e-8      dvt0    = 0.1879         dvt1    = 0.6893             
+dvt2    = -2.772         prwg    = -0.3822        prwb    = 0                  
+wr      = 1              voff    = -0.1446        nfactor = 0.9027             
+cdsc    = 3.591e-3       cdscd   = 3.109e-4       cdscb   = 0.01282            
+cit     = 0              vsat    = 9.887e4        a0      = 0.336              
+ags     = 0.2114         a1      = 5.591e-4       a2      = 1.444              
+b0      = 4.286e-6       b1      = 7.021e-6       eta0    = 4.973e-3           
+etab    = -4.008e-3      dsub    = 0.1147         pvag    = 1.516              
+pclm    = 2.608          pdiblc1 = 0.5085         pdiblc2 = 7.607e-4           
+pdiblcb = 0.3184         drout   = 0.788          pscbe1  = 1.151e10           
+pscbe2  = 3.049e-8       keta    = -0.01241       delta   = 0.01 
+trd     = 3.279e-3        
+trs     = 0              prt     = 0              ute     = -1.854             
+kt1     = -0.5225        kt1l    = -2.369e-8      kt2     = -0.07349           
+ua1     = 1.655e-10      ub1     = -4.449e-18     uc1     = 6.875e-11          
+at      = 0              nj       = 2.5           xti     = 3 
+mj      = 0.474          pb      = 0.8            mjsw    = 0.27               
+pbsw     = 0.8            ckappa  = 0.6            cf      = 0                  
+clc     = 1e-7           cle     = 0.6          ) 
*
*
*
.model     jnx            njf                    ( ;level   = 1
+beta    = 1.740e-5       lambda  = 0              vto     = -21  
+rd      = 10             rs      = 10             ;bex     = -1.3998   
+cgs     = 1e-14          cgd     = 1e-14          pb      = 0.7   )
*
.model nnx nmos (         ;version = 3.1           
+level = 7 ;intcap=1
+tnom    = 21             ;templev = 2
+mobmod  = 1                  
+nqsmod  = 0              capmod=2              xpart   = 0                  
+;acm     = 2              
+noimod  = 1              ;hdif    = 8e-7
+tox     = 2.65e-8            
+xj      = 1.5e-7         nch     = 1.5e17         k1      = 0.963          
+k2      = -0.073         vth0    = 0.694          u0      = 627.225          
+rsh     = 90             rdsw    = 138.519        lint    = 4.801e-7        
+wint    = 1.711e-7       js      = 0.03           cgdo    = 3e-10              
+cgso    = 2.5e-10        cgbo    = 3e-10          cj      = 4.02e-4            
+cjsw    = 2.65e-10       
+ua      = 9.083e-10      ub      = 5.344e-18       
+uc      = 3.635e-11      k3      = 20.954         k3b     = -11.617        
+w0      = 2.658e-7       dwg     = -8.5e-9        dwb     = 6.449e-9          
+nlx     = 2.639e-10      dvt0    = 0.366          dvt1    = 0.075          
+dvt2    = -0.049         prwg    = -0.015         prwb    = -0.076         
+wr      = 1              voff    = -0.046         nfactor = 0.73          
+cdsc    = -3.608e-4      cdscd   = -5.632e-5      cdscb   = -1.099e-4       
+cit     = 0              vsat    = 8.863e4        a0      = 0.054          
+ags     = 0.031          a1      = 0              a2      = 1                  
+b0      = 6.103e-7       b1      = 1.489e-7       eta0    = -0.072          
+etab    = -0.187         dsub    = 0.456          pvag    = 1.094          
+pclm    = 0.905          pdiblc1 = 0.015          pdiblc2 = 4.145e-3        
+pdiblcb = 0.08           drout   = 0.083          pscbe1  = 1e9                
+pscbe2  = 2e-7           keta    = -0.019         delta   = 0.01               
+wwl     = -6.117e-20     lwl     = -4.892e-20   
+prt     = 1.852e3         
+ute     = -1.765         kt1     = -0.44          kt1l    = 8.637e-8        
+kt2     = -0.079         ua1     = 1.699e-9       ub1     = -7.213e-18       
+uc1     = -4.672e-11     at      = 5.173e3        n       = 1.83               
+xti     = 3              mj      = 0.41           pb      = 0.8                
+mjsw    = 0.199          pbsw     = 0.8            elm     = 5                  
+cgsl    = 0              cgdl    = 0              ckappa  = 0.6                
+cf      = 0              clc     = 1e-7           cle     = 0.6             )  
*  
*                        
.model     jpx            pjf                    ( ;level   = 1
+beta    = 3.449e-6       lambda  = 0              vto     = -18.6937 
+rd      = 10             rs      = 10             ;bex     = -1.2759   
+cgs     = 1e-14          cgd     = 1e-14          pb      = 0.7   )
*
.model ppx pmos (         ;version = 3.1           
+level = 7 ;intcap=1
+tnom    = 21             ;templev = 2                 
+mobmod  = 1                  
+nqsmod  = 0              capmod=2              xpart   = 0                  
+;acm     = 2              
+noimod  = 1              ;hdif    = 8e-7
+tox     = 2.65e-8            
+xj      = 1.5e-7         nch     = 5e16           k1      = 0.944          
+k2      = -5.095e-5      vth0    = -1.562         u0      = 202.436           
+rsh     = 90             rdsw    = 1e3            lint    = 4.209e-7        
+wint    = 1.844e-7       js      = 5e-3           cgdo    = 3e-10              
+cgso    = 2.5e-10        cgbo    = 3e-10          cj      = 4.02e-4            
+cjsw    = 2.65e-10       
+ua      = 3.699e-9       ub      = 1e-21       
+uc      = -5.688e-11     k3      = 27.517         k3b     = -6.989         
+w0      = 4.735e-6       dwg     = -8.738e-9      dwb     = 2.389e-8        
+nlx     = 0              dvt0    = 0.105          dvt1    = 0.027          
+dvt2    = -0.106         prwg    = -2.068e-4      prwb    = -0.433         
+wr      = 1              voff    = -0.049         nfactor = 0.75          
+cdsc    = -1.802e-4      cdscd   = 6.693e-6       cdscb   = -2.478e-5       
+cit     = 0              vsat    = 1.892e5        a0      = 0.558          
+ags     = 0.076          a1      = 0              a2      = 1                  
+b0      = 4.855e-6       b1      = 1.205e-5       eta0    = -0.137         
+etab    = -0.105         dsub    = 1.999          pvag    = 2.177e-3        
+pclm    = 2.379          pdiblc1 = 0.06           pdiblc2 = 1.968e-3        
+pdiblcb = -0.276         drout   = 0.32           pscbe1  = 1e9                
+pscbe2  = 3e-8           keta    = 4.992e-3       delta   = 0.01               
+wwl     = -6.117e-20     lwl     = -4.892e-20   
+prt     = 355.913        
+ute     = -1.472         kt1     = -0.538         kt1l    = -5.849e-8       
+kt2     = -0.067         ua1     = -3.078e-11     ub1     = -4.705e-18       
+uc1     = -9.696e-11     at      = 1.473e5        n       = 1.83               
+mj      = 0.41           pb      = 0.8            mjsw    = 0.199              
+pbsw     = 0.8            elm     = 5              cgsl    = 0                  
+cgdl    = 0              ckappa  = 0.6            cf      = 0                  
+clc     = 1e-7           cle     = 0.6             )                           
*                                                                                   
*----------------------------------------------------------------------------*
.SUBCKT PHV d g s b PARAMS: W=20u M=1
M1 1 g s b ppx W={W} L=5u M={M}
J1 d b 1 jpx  {W/20u*M}
.ENDS PHV
*
.SUBCKT NHV d g s b PARAMS: W=20u M=1
m1 1 g s b nnx W={W} L=5u M={M}
j1 d b 1 jnx  {W/20u*M}
.ENDS NHV
*
.ENDS  MyLMC555